US07381719B2
Part B: (±)-6-{4-[2-((trans)-4-Hydroxycyclohexylamino)ethyl]phenoxy}nicotinamide
Heat a mixture of the phenol (121.2 mg, 0.52 mmol), 6-chloronicotinamide (121.0 mg, 0.77 mmol), and K2CO3 (213.5 mg, 1.55 mmol) in 3:1 DMF/toluene (6.0 mL) at 165° C. for 3 hours. Quench the reaction with a small amount of H2O and concentrate to dryness, using xylenes to remove DMF azeotropically. Dissolve the residue in MeOH and filter. Concentrate the filtrate and purify by flash chromatography, eluting with 75:15:10 EtOAc/CH2Cl2/2.0 M NH3 in MeOH, to afford the title compound (79.1 mg, 43%): MS ES+ 356.0 (M+H)+, HRMS calcd for C20H26N3O3 356.1974 (M+H)+, found 356.1959, time 0.34 min; HPLC [YMC-Pack Pro C-18 (150×4.6 mm, S-5 microm), acetonitrile in water containing 0.01% concentrated HCl at 1.0 mL/min, 5-95% over 19 min], tR=5.81 min, 100% purity.

reactant | phenol | 0.52 mmol, 121.2 mg | C1(=CC=CC=C1)O | C6H6O
reactant | 6-chloronicotinamide | 0.77 mmol, 121.0 mg | ClC1=NC=C(C(=O)N)C=C1 | C6H5ClN2O
reactant | K2CO3 | 1.55 mmol, 213.5 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF toluene | 6.0 mL | CN(C)C=O.C1(=CC=CC=C1)C
product | (±)-6-{4-[2-((trans)-4-Hydroxycyclohexylamino)ethyl]phenoxy}nicotinamide | 79.1 mg, 43% | O[C@@H]1CC[C@H](CC1)NCCC1=CC=C(OC2=NC=C(C(=O)N)C=C2)C=C1 | C20H25N3O3
